US05371064
Approximately 12.6 g of methanethiol was dissolved in N,N-dimethylformide. Potassium carbonate (41.5 g) and methyl 2,3-difluorobenzoate (43.1 g) were added and the mixture stirred at 25° C. for 27 hours. Saturated ammonium chloride was added and the mixture partitioned between ether and water. The organic phase was washed with water, dried over magnesium sulphate, filtered and evaporated. The product was obtained by distillation to give 35.5 g of methyl 3-fluoro-2-methylsulphenylbenzoate, b.p. 140° C. (9mm Hg) as a clear oil. NMR (CDCl3) 2.5(3H, d), 3.9(3H,s), 7.2(1H,m), 7.3(1H,m), 7.5(1H, m).

reactant | methanethiol | 12.6 g | CS | CH4S
reactant | Potassium carbonate | 41.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2,3-difluorobenzoate | 43.1 g | FC1=C(C(=O)OC)C=CC=C1F | C8H6F2O2
reactant | ammonium chloride | [Cl-].[NH4+]
product | methyl 3-fluoro-2-methylsulphenylbenzoate | 35.5 g | FC=1C(=C(C(=O)OC)C=CC1)SC | C9H9FO2S
